US06492416B1
To a stirred solution of 1-ethynyl-cyclopentan-1-ol (2.0 g) in 15 ml dry THF at −78° C. under argon, was added 18 ml of 2.5 M butyllithium in hexane dropwise over 20 minutes. The reaction solution was stirred for another 20 minutes, which was followed by the addition of 4-methylthiobenzaldehyde (2.7 g) dropwlse. After stirring for another 2 hours, the reaction was quenched by adding 20 ml of dilute aqueous HCl. The reaction solvent was removed in vacuo, and the resulting aqueous solution was extracted with dichloromethane (30 ml×3). The organic layer was concentrated under reduced pressure and the resulting residue was purified by column chromatography (hexane/ethylacetate=1:1) to yield 3.48 g of 1-[3-hydroxy-3-{4-(methylthio)phenyl}-prop-1-ynyl]-cyclopentanol as a solid. mp: 118-120° C. NMR: δ0.73 (m, 4H), 1.87 (m, 4H), 2.16 (s, 1H), 2.48 (s, 3H), 2.55 (s, 1H), 5.43 (d, J=5.7 Hz, 1H), 7.24(d, J=8.4 Hz, 2H), 7.42 (d, J=8.4 Hz, 2H).

reactant | 1-ethynyl-cyclopentan-1-ol | 2.0 g | C(#C)C1(CCCC1)O | C7H10O
reactant | butyllithium | 2.5 M, 18 ml | C(CCC)[Li]
reactant | 4-methylthiobenzaldehyde | 2.7 g | CC1=CC=C(C=S)C=C1 | C8H8S
reactant | THF | 15 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-[3-hydroxy-3-{4-(methylthio)phenyl}-prop-1-ynyl]-cyclopentanol | 3.48 g | OC(C#CC1(CCCC1)O)C1=CC=C(C=C1)SC | C15H18O2S
